US06307087B1
Synthesis of 3-acetyl-3′,5′-dimethoxybiphenyl
An oven dried Schlenk tube was evacuated and backfilled with argon and charged with palladium acetate (2.2 mg, 0.01 mmol, 1.0 mol %), 2-(di-tert-butylphosphino)biphenyl (6.0 mg, 0.020 mmol, 2.0 mol %), 3,5-dimethoxyphenyl chloride (173 mg, 1.0 mmol), 3-acetylphenylboron dihydroxide (246 mg, 1.5 mmol), and potassium fluoride (174 mg, 3.0 mmol). The tube was evacuated and backfilled with argon, and THF (1 mL) was added through a rubber septum. The reaction mixture was stirred at room temperature until the starting aryl chloride had been completely consumed as judged by GC analysis. The reaction mixture was then diluted with ethyl acetate (30 mL) and poured into a separatory funnel. The mixture was washed with 2.0 M NaOH (20 mL). The organic layer was washed with brine (20 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude material was purified by flash chromatography on silica gel to afford 232 mg (91%) of the title compound.

reactant | 3,5-dimethoxyphenyl chloride | 1.0 mmol, 173 mg | COC=1C=C(C=C(C1)OC)Cl | C8H9ClO2
reactant | 3-acetylphenylboron dihydroxide | 1.5 mmol, 246 mg | [OH-].[OH-].C(C)(=O)C=1C=C(C=CC1)[B+2]
reactant | potassium fluoride | 3.0 mmol, 174 mg | [F-].[K+]
catalyst | palladium acetate | 0.01 mmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 0.020 mmol, 6.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | 3-acetyl-3′,5′-dimethoxybiphenyl | 232 mg, 91% | C(C)(=O)C=1C=C(C=CC1)C1=CC(=CC(=C1)OC)OC | C16H16O3
